US06927222B2
ii) tert-Butyl-3-(4-chloroanilino)-1-pyrrolidinecarboxylate
Tert butyl-2-oxo-1-pyrrolidinecarboxylate (190 mg, 1.02 mmol), 4-chloroaniline (64 mg, 0.5 mmol) and acetic acid (184 mg) were mixed in dichloroethane (5 mL). Sodium triacetoxyborohydride (326.5 mg) was added and the reaction mixture kept on stirring at room temperature for overnight. After addition of aq. NaHCO3 the reaction mixture was diluted by addition of ethyl acetate. Two layers were separated. The organic layer was dried over Na2SO4, filtered, concentrated. The residue was purified by flash chromatography (0-15% ethyl acetate in petroleum spirit, 40-60) to give the subtitled product (140 mg).

reactant | Tert butyl-2-oxo-1-pyrrolidinecarboxylate | 1.02 mmol, 190 mg | C(C)(C)(C)OC(=O)N1C(CCC1)=O | C9H15NO3
reactant | 4-chloroaniline | 0.5 mmol, 64 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | Sodium triacetoxyborohydride | 326.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 184 mg | C(C)(=O)O | C2H4O2
product | tert-Butyl-3-(4-chloroanilino)-1-pyrrolidinecarboxylate | 140 mg | C(C)(C)(C)OC(=O)N1CC(CC1)NC1=CC=C(C=C1)Cl | C15H21ClN2O2
